US06403149B1
ClCF2C(O)CF(CF3)2—1-chloro-1,1,3,4,4,4-hexafluoro-3-trifluoromethyl-butan-2-one
To a clean dry 600 mL Parr pressure reactor was charged 53.5 g (0.92 mol) of anhydrous potassium fluoride, 150 g of anhydrous diglyme and 150 g of chlorodifluoroacetic anhydride. With the reactor set at 80° C. and 92 psig (5500 torr), 123 g (0.820 mol) of hexafluoropropylene was charged over a 3 hour period at a tank pressure not exceeding 120 psig (7000 torr). Following reaction for ½ hour at 80° C., the reactor contents were allowed to cool and were distilled to obtain 180.6 g of crude material. Upon fractional distillation, acetic acid/KMnO4 treatment and refractionation of the crude material, 46.1 g (26% of theoretical yield) of (CF3)2CFC(O)CF2Cl, a clear colorless liquid, was obtained having a purity of 98.8% as determined by gas chromatography.

reactant | potassium fluoride | 0.92 mol, 53.5 g | [F-].[K+]
reactant | chlorodifluoroacetic anhydride | 150 g | ClC(C(=O)OC(C(Cl)(F)F)=O)(F)F | C4Cl2F4O3
reactant | hexafluoropropylene | 0.820 mol, 123 g | FC(C(=C(F)F)F)(F)F | C3F6
solvent | diglyme | 150 g | COCCOCCOC | C6H14O3
product | ClCF2C(O)CF(CF3)2 1-chloro-1,1,3,4,4,4-hexafluoro-3-trifluoromethyl-butan-2-one | 180.6 g | ClC(F)(F)C(=O)C(F)(C(F)(F)F)C(F)(F)F.ClC(C(C(C(F)(F)F)(C(F)(F)F)F)=O)(F)F | 2C5ClF9O
